US04273779
The mixture of 811 g of 5-(N-carbomethoxy-N-p-fluorobenzylamino)-pyridine-2-carboxylic acid methyl ester and 5,000 ml of 20% aqueous potassium hydroxide is refluxed for 5 hours while stirring under nitrogen. The solution is diluted with 12,000 ml of water, filtered and the filtrate acidified with 1,200 ml of 38% hydrochloric acid to pH=3.5 while cooling and stirring for an hour. The precipitate is collected, washed 4 times with a total of 2,000 ml of water and dried at 70° and 3 mm Hg. 1,351 g thereof are dissolved in 16,000 ml of boiling dioxane, the solution filtered, the filtrate concentrated to about 7,000 ml at 10 mm Hg and allowed to cool to room temperature while stirring. The crystals formed are collected and 1,046 g thereof dissolved in 5,000 ml of glacial acetic acid at 95%. The solution is allowed to stand overnight at room temperature, the precipitate collected and washed with 500 ml of glacial acetic acid, followed by 1,000 ml of diethyl ether, to yield the 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid acetate.

reactant | 5-(N-carbomethoxy-N-p-fluorobenzylamino)-pyridine-2-carboxylic acid methyl ester | 811 g | COC(=O)C1=NC=C(C=C1)N(CC1=CC=C(C=C1)F)C(=O)OC | C16H15FN2O4
reactant | potassium hydroxide | 5,000 ml | [OH-].[K+]
solvent | water | 12,000 ml | O | H2O
product | 5-(p-fluorobenzylamino)-pyridine-2-carboxylic acid acetate | C(C)(=O)O.FC1=CC=C(CNC=2C=CC(=NC2)C(=O)O)C=C1 | InChI=1S/C13H11FN2O2.C2H4O2/c14-10-3-1-9(2-4-10)7-15-11-5-6-12(13(17)18)16-8-11;1-2(3)4/h1-6,8,15H,7H2,(H,17,18);1H3,(H,3,4)
